US06936602B1
In 1,2-dichloroethane (20) were dissolved methyl 7-bromo-2,3-dihydro-1H-1-benzazepine-4-carboxylate (1.0 g), n-butylaldehyde (1.3 ml) and acetic acid (0.41 ml), and to the solution was added sodium triacetoxyborohydride (3.8 g). The mixture was stirred at room temperature overnight, poured into water, neutralized with sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried with anhydrous magnesium sulfate. The solvent was evaporated and the residue was purified with silica gel column chromatography (ethyl acetate/hexane) to give methyl 7-bromo-1-butyl-2,3-dihydro-1H-1-benzazepine-4-carboxylate (0.9 g) as pale yellow oil.

reactant | methyl 7-bromo-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 1.0 g | BrC=1C=CC2=C(C=C(CCN2)C(=O)OC)C1 | C12H12BrNO2
reactant | acetic acid | 0.41 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 3.8 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 7-[4-(2-ethoxy)ethoxy-3-fluorophenyl]-1-formyl-N-[4-[[N-methyl-N-(tetrahydro-2H-pyran-4-yl)amino]methyl]phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxamide | CCOCCOC1=C(C=C(C=C1)C=1C=CC2=C(C=C(CCN2C=O)C(=O)NC2=CC=C(C=C2)CN(C2CCOCC2)C)C1)F | C35H40FN3O5
solvent | water | O | H2O
product | methyl 7-bromo-1-butyl-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 0.9 g | BrC=1C=CC2=C(C=C(CCN2CCCC)C(=O)OC)C1 | C16H20BrNO2
